US07718668B2
(2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol hydrochloride
(2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol (1.5 g; 3.6 mmol) is dissolved in 9 ml of 2-propanol. The solution is heated up to 60° C. 760 μl (3.8 mmol) of HCl (c=5 mol/l in 2-propanol) are added. The solution is cooled down to room temperature and stirred over night. The solution is inoculated with some crystals of the title compound. After crystallisation the suspension is stirred over night. The crystals are filtered off and dried to obtain 0.3 g (19%) of the title compound (m.p.: 164° C.).

reactant | (2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol | 3.6 mmol, 1.5 g | COC1=NC(=CC=C1C1=N[C@@H]2CC[C@H](C[C@@H]2C2=CC(=C(C=C12)OC)OCC)O)OC | C23H28N2O5
reactant | HCl | 3.8 mmol, 5 mol/l, 760 μl | Cl | ClH
solvent | 2-propanol | 9 ml | CC(C)O | C3H8O
product | (2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol hydrochloride | Cl.COC1=NC(=CC=C1C1=N[C@@H]2CC[C@H](C[C@@H]2C2=CC(=C(C=C12)OC)OCC)O)OC | InChI=1S/C23H28N2O5.ClH/c1-5-30-20-11-15-16-10-13(26)6-8-18(16)24-22(17(15)12-19(20)27-2)14-7-9-21(28-3)25-23(14)29-4;/h7,9,11-13,16,18,26H,5-6,8,10H2,1-4H3;1H/t13-,16-,18-;/m1./s1
